US09278987B2
3-(Tert-Butyldisulfanyl)-2-(Isobutoxycarbonylamino)Propanoic Acid
To S-tert-butylmercapto-L-cysteine (10 g, 47.8 mmol) in CH3CN (40 mL) was added K2CO3 (16.5 g, 119.5 mmol) in H2O (20 mL). After stirring for 15 minutes, iso-butyl chloroformate (9.4 mL, 72 mmol) was injected slowly. The reaction was allowed to run for 3 hours. The white solid was filtered through Celite; the filtrate was concentrated to remove CH3CN. The residue was dissolved in ethyl acetate (200 mL), washed with 1N HCl (40 ml×3), brine (40×1), dried over Na2SO4. The title compound was obtained after chromatography (5% MeOH/DCM).

reactant | S-tert-butylmercapto-L-cysteine | 47.8 mmol, 10 g | C(C)(C)(C)SSC[C@H](N)C(=O)O | C7H15NO2S2
reactant | K2CO3 | 119.5 mmol, 16.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iso-butyl chloroformate | 72 mmol, 9.4 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | CH3CN | 40 mL | CC#N | C2H3N
solvent | H2O | 20 mL | O | H2O
product | 3-(Tert-Butyldisulfanyl)-2-(Isobutoxycarbonylamino)Propanoic Acid | C(C)(C)(C)SSCC(C(=O)O)NC(=O)OCC(C)C | C12H23NO4S2
